US08791139B2
855 mg (2.15 mmol) of methyl 1-(3-chloropyridin-2-yl)-3-{[5-(trifluoromethyl)pyridin-2-yl]amino}-1H-pyrazole-5-carboxylate were dissolved in 10.0 ml of ethanol, and 248 mg (2.79 mmol) of 45% strength aqueous sodium hydroxide solution were added. After 24 hours of stirring at room temperature, the mixture was diluted with water and acidified with dilute hydrochloric acid. The aqueous phase was extracted repeatedly with ethyl acetate and dried over magnesium sulphate. The solvent was distilled off under reduced pressure, which gave 758 mg (92% of theory) of 1-(3-chloropyridin-2-yl)-3-{[5-(trifluoromethyl)pyridin-2-yl]amino}-1H-pyrazole-5-carboxylic acid. (logP: 2.79; MH+: 384.0; 1H-NMR (400 MHz, CD3CN, δ, ppm): 7.28 (m, 1H), 7.38 (m, 1H), 7.55 (m, 1H), 7.89 (m, 1H), 8.05 (m, 1H), 8.51 (m, 2H).

reactant | methyl 1-(3-chloropyridin-2-yl)-3-{[5-(trifluoromethyl)pyridin-2-yl]amino}-1H-pyrazole-5-carboxylate | 2.15 mmol, 855 mg | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OC)NC1=NC=C(C=C1)C(F)(F)F | C16H11ClF3N5O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10.0 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(3-chloropyridin-2-yl)-3-{[5-(trifluoromethyl)pyridin-2-yl]amino}-1H-pyrazole-5-carboxylic acid | 758 mg, 92% | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)O)NC1=NC=C(C=C1)C(F)(F)F | C15H9ClF3N5O2
